US06107312
4. 1-(2-Dimethylaminoethyl)-2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]-thio}-benzimidazole
2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole is stirred with 2-dimethylamino-ethyl chloride hydrochloride (1.5 equivalents), potassium carbonate (5 equivalents) and potassium iodide (0.05 equivalents) in acetonitrile at 100° C. for 24 h, the mixture is filtered, the filtrate is concentrated on a rotary evaporator, water is added to the residue and the mixture is extracted with methylene chloride. The combined organic phases are washed with water, dried and concentrated. The residue is crystallized from methylene chloride/diisopropyl ether. The title compound is obtained as a colorless powder; m.p. 87-89° C.; yield: 74% of theory.

reactant | 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C19H17N3OS2
reactant | 2-dimethylamino-ethyl chloride hydrochloride | 1.5 equivalents | Cl.CN(CCCl)C
reactant | potassium carbonate | 5 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 equivalents | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-Dimethylaminoethyl)-2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]-thio}-benzimidazole | yield: 74% | CN(CCN1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2C)SCC=2OC=CC2)C | C23H26N4OS2
